US08044062B2
To a solution of 2-methyl-2-thiopseudourea sulfate (Aldrich, 58.74 g, 0.422 mol) in water (1000 mL) were added sodium carbonate (81.44 g, 0.768 mol) and ethyl acetoacetate (50 g, 0.384 mol) at room temperature. The reaction mixture was stirred overnight. After neutralizing to pH=8, the solid was collected through filtration followed by drying under vacuum overnight to afford 6-methyl-2-(methylthio)pyrimidin-4(3H)-one (57.2 g, 95% yield) of product. 1H NMR (400 MHz, DMSO-d6): δ 12.47 (bs, 1H), 5.96 (bs, 1H), 2.47 (s, 3H), 2.17 (s, 3H).

reactant | 2-methyl-2-thiopseudourea sulfate | 0.422 mol, 58.74 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium carbonate | 0.768 mol, 81.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetoacetate | 0.384 mol, 50 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | water | 1000 mL | O | H2O
product | 6-methyl-2-(methylthio)pyrimidin-4(3H)-one | 57.2 g, 95% yield | CC1=CC(NC(=N1)SC)=O | C6H8N2OS
